### PR TITLE
[Merged by Bors] - feat(MeasureTheory/Integral/IntervalIntegral): add variant `integral_deriv_eq_sub_uIoo` of 2nd theorem of calculus.

### PR DESCRIPTION
**Pull request by michelsol**
Add a continuous on uIcc, differentiable on uIoo, deriv version of the 2nd fundamental theorem of calculus.
This corresponds to what is written [here](https://en.wikipedia.org/wiki/Fundamental_theorem_of_calculus#Second_part).
For example it makes it easier to compute the integral : 
```lean4
∫ x : ℝ in 0..1, (√(1 - x ^ 2))⁻¹ = ∫ x : ℝ in 0..1, deriv arcsin x = arcsin 1 - arcsin 0
``` 
It is not possible to use [`interval_deriv_eq_sub`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Integral/IntervalIntegral/FundThmCalculus.html#intervalIntegral.integral_deriv_eq_sub) which requires differentiability on all of [0,1], as `arcsin` isn't differentiable at 1.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/FundThmCalculus.lean [hunk 1]
```diff
@@ -1185,6 +1185,20 @@ theorem integral_deriv_eq_sub' (f) (hderiv : deriv f = f')
...
+    (hcont : ContinuousOn f (uIcc a b)) (hderiv : ∀ x ∈ uIoo a b, DifferentiableAt ℝ f x)
+    (hint : IntervalIntegrable (deriv f) volume a b) : ∫ y in a..b, deriv f y = f b - f a := by
+  rcases le_total a b with hab | hab
+  · simp only [uIcc_of_le, hab, uIoo_of_le] at hcont hderiv
+    rw [integral_eq_sub_of_hasDerivAt_of_le hab hcont (fun x hx => (hderiv x hx).hasDerivAt) hint]
+  · simp only [uIcc_of_ge, hab, uIoo_of_ge] at hcont hderiv
+    rw [integral_symm,
+      integral_eq_sub_of_hasDerivAt_of_le hab hcont
+        (fun x hx => (hderiv x hx).hasDerivAt) hint.symm,
+      neg_sub]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/FundThmCalculus.lean]: Thanks! No need to put that much space in the `rw`.
```suggestion
    rw [integral_symm, integral_eq_sub_of_hasDerivAt_of_le hab hcont
        (fun x hx => (hderiv x hx).hasDerivAt) hint.symm, neg_sub]
```
maintainer delegate

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/FundThmCalculus.lean [hunk 2]
```diff
@@ -1185,6 +1185,20 @@ theorem integral_deriv_eq_sub' (f) (hderiv : deriv f = f')
   rw [hderiv]
   exact hcont.intervalIntegrable
 
+/-- Fundamental theorem of calculus-2: If `f : ℝ → E` is differentiable at every `x` in `(a, b)` and
+its derivative is integrable on `[a, b]`, then `∫ y in a..b, deriv f y` equals `f b - f a`. -/
+theorem integral_deriv_eq_sub_uIoo
+    (hcont : ContinuousOn f (uIcc a b)) (hderiv : ∀ x ∈ uIoo a b, DifferentiableAt ℝ f x)
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/FundThmCalculus.lean]: You can the notation for `uIcc` here:
```suggestion
    (hcont : ContinuousOn f [[a, b]]) (hderiv : ∀ x ∈ uIoo a b, DifferentiableAt ℝ f x)
```

**Comment by RemyDegenne** [comment]
I applied Etienne's suggestions and merged master to fix CI.
Thanks for this PR!
bors r+

**Comment by loefflerd** [comment]
Thanks, Rémy, for taking care of this!
